US09029295B2
Production of 4-(2,6-diethyl-4-methylphenyl)-6-methoxy-5-benzyloxy-2-methyl-3(2H)-pyridazinone (Compound (I-8-1))
To a solution of 4-(2,6-diethyl-4-methylphenyl)-6-hydroxy-5-benzyloxy-2-methyl-3(2H)-pyridazinone (500 mg, 2.35 mmol) in acetone (10 ml) was added iodopropane (443 mg, 2.59 mmol) and cesium carbonate (920 mg, 2.59 mmol), and stirred under reflux for 2.5 hours. The reaction mixture was filtered, and then the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give 643 mg of Compound (I-8-1) (yield: 70%).

reactant | 4-(2,6-diethyl-4-methylphenyl)-6-hydroxy-5-benzyloxy-2-methyl-3(2H)-pyridazinone | 2.35 mmol, 500 mg | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1OCC1=CC=CC=C1)O)C)=O | C23H26N2O3
reactant | iodopropane | 2.59 mmol, 443 mg | ICCC | C3H7I
reactant | cesium carbonate | 2.59 mmol, 920 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 4-(2,6-diethyl-4-methylphenyl)-6-methoxy-5-benzyloxy-2-methyl-3(2H)-pyridazinone | 643 mg, yield: 70% | C(C)C1=C(C(=CC(=C1)C)CC)C=1C(N(N=C(C1OCC1=CC=CC=C1)OC)C)=O | C24H28N2O3
